### PR TITLE
[Merged by Bors] - chore(Algebra): change two statements in CubicDiscriminant

### PR DESCRIPTION
**Pull request by alreadydone**
The conclusions of the two lemmas do not mention x,y,z, and we make the assumption not mention x,y,z in this PR. The new and old assumptions are equivalent by [Cubic.splits_iff_roots_eq_three](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/CubicDiscriminant.html#Cubic.splits_iff_roots_eq_three) earlier in the file.

This contribution was created as part of the Heidelberg Lean workshop "Formalising algebraic geometry" in November 2025.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/CubicDiscriminant.lean [hunk 1]
```diff
@@ -471,23 +471,23 @@ theorem discr_eq_prod_three_roots (ha : P.a ≠ 0) (h3 : (map φ P).roots = {x,
...
   rw [nodup_cons, nodup_cons, mem_cons, mem_singleton, mem_singleton]
   simp only [nodup_singleton]
   tauto
 
 theorem card_roots_of_discr_ne_zero [DecidableEq K] (ha : P.a ≠ 0)
-    (h3 : (map φ P).roots = {x, y, z}) (hd : P.discr ≠ 0) : (map φ P).roots.toFinset.card = 3 := by
-  rw [toFinset_card_of_nodup <| (discr_ne_zero_iff_roots_nodup ha h3).mp hd,
-    ← splits_iff_card_roots ha, splits_iff_roots_eq_three ha]
-  exact ⟨x, ⟨y, ⟨z, h3⟩⟩⟩
+    (h3 : (P.toPoly.map φ).Splits) (hd : P.discr ≠ 0) : (map φ P).roots.toFinset.card = 3 := by
```
Comment (Multramate) [inline Mathlib/Algebra/CubicDiscriminant.lean]: Might be able to shift `h3` into the previous line.

**Review by Multramate — APPROVED** [review]
LGTM!

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge
